US07615552B2
To solution of 4-amino-2-chloro-6,7-dimethoxyquinazoline (0.240 g, 1 mmol) in 10 ml dioxane was added morpholine (0.350 ml, 4 mmol). The mixture was heated at 85° C. for 4 h. After cooling to room temperature, the reaction mixture was diluted with water and solid was precipitated. The resulting precipitate was collected by filtration and washed with water and little amount of methanol and to give A 6,7-dimethoxy-2-morpholin-4-yl-quinazolin-4-ylamine (0.275 g) in 94% yield.

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 1 mmol, 0.240 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | morpholine | 4 mmol, 0.350 ml | N1CCOCC1 | C4H9NO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6,7-dimethoxy-2-morpholin-4-yl-quinazolin-4-ylamine | 0.275 g, 94% yield | COC=1C=C2C(=NC(=NC2=CC1OC)N1CCOCC1)N | C14H18N4O3
